US04261987
A suspension of 10 g of 7-chloro-5-(2'-fluoro-phenyl)-1,3-dihydro-2H-1,4-benzodiazepine-2-one-4-oxide in 20 ml of absolute chloroform is mixed with 14.3 g of dipropyl acetic acid anhydride and is heated under reflux and with the exclusion of atmospheric moisture for such a length of time until a sample on the thin layer-chromatogram (silica gel 60 F 254 of the firm Merck, flow agent: cyclohexane/acetone=1:1) shows a complete conversion. Then, the cooled mixture is shaken out several times with water, the organic phase is dried with Na2SO4 and the filtrate is evaporated in the vacuum. Upon standing over night, the residue crystallizes, is washed with petroleum ether and recrystallized from aceontrile. One will obtain a colorless powder of 7-chloro-3-dipropylacetoxy-5-(2'-fluorophenyl)-1,3-dihydro-2H-1,4-benzodiazepine-2-one, which melts at 147°-149°.

reactant | 7-chloro-5-(2'-fluoro-phenyl)-1,3-dihydro-2H-1,4-benzodiazepine-2-one-4-oxide | 10 g | ClC=1C=CC2=C(C(=[N+](CC(N2)=O)[O-])C2=C(C=CC=C2)F)C1 | C15H10ClFN2O2
reactant | dipropyl acetic acid anhydride | 14.3 g | C(CC)C(C(=O)OC(C(CCC)CCC)=O)CCC | C16H30O3
reactant | cyclohexane acetone | C1CCCCC1.CC(=O)C
reactant | water | O | H2O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-chloro-3-dipropylacetoxy-5-(2'-fluorophenyl)-1,3-dihydro-2H-1,4-benzodiazepine-2-one | ClC=1C=CC2=C(C(=NC(C(N2)=O)OC(C(CCC)CCC)=O)C2=C(C=CC=C2)F)C1 | C23H24ClFN2O3
